US04885363
(1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane)
Four hundred fifty μl of 100mM solutions of each of chromic chloride, ferric chloride, manganese chloride and dysprosium chloride were mixed with 50 μl of 1M 1,4,7-triscarboxymethyl-1,4,7,10tetraazacyclododecane and adjusted to pH 4.5. The solutions were heated at 88° C. for 20 minutes to enhance the rate of chelation, cooled and then adjusted to pH 7.

reactant | chromic chloride | [Cr](=O)(=O)(Cl)Cl
reactant | dysprosium chloride | [Cl-].[Dy+3].[Cl-].[Cl-]
reactant | Bismuth(III)(1,4,7-triscarboxymethyl-1,4,7,10tetraazacyclododecane) | 1M, 50 μl | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O.[Bi+3]
catalyst | manganese chloride | [Cl-].[Mn+2].[Cl-]
product | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
